US05547606
(Preparation of trans-4-isobutyl-1-(2-(trans-4-(p-fluorophenyl) cyclohexyl)ethyl)-1-silacyclohexane)
The preparation was conducted in the same manner as in Example 30, except that 6.3 g (19.9 mmol) of trans-1-iodomethyl-4-(p-fluorophenyl)cyclohexane and (4-n-isobutyl-1-silacyclohexyl) methylmagnesium chloride were used instead of 4.5 g (19.9 mmol) of trans-1-iodomethyl-4-n-propylcyclohexane and (4-(p-fluorophenyl)-1-silacyclohexyl)methylmagnesium chloride.

reactant | trans-1-iodomethyl-4-(p-fluorophenyl)cyclohexane | 19.9 mmol, 6.3 g | IC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)F | C13H16FI
reactant | trans-1-iodomethyl-4-n-propylcyclohexane | 19.9 mmol, 4.5 g | IC[C@@H]1CC[C@H](CC1)CCC | C10H19I
reactant | (4-(p-fluorophenyl)-1-silacyclohexyl)methylmagnesium chloride | FC1=CC=C(C=C1)C1CC[SiH](CC1)C[Mg]Cl
product | trans-4-isobutyl-1-(2-(trans-4-(p-fluorophenyl) cyclohexyl)ethyl)-1-silacyclohexane | C(C(C)C)[C@@H]1CC[Si@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)F | C23H37FSi
